US07855216B2
Step 1: 4-Bromo-3-fluoro-benzenethiol
4-Bromo-3-fluoro-benzenesulfonyl chloride (324 μl, 2.19 mmol) was added dropwise to a solution of triphenylphosphine (1.73 g, 6.58 mmol) in a mixture of dimethylformamide (125 μl) and dichloromethane (5 ml). The solution was stirred at room temperature for 16 hours, then 1 M aqueous hydrochloric acid (5 ml) was added and the layers were separated. The organic layer was concentrated in vacuo and the resultant residue taken up in 1 M aqueous sodium hydroxide (10 ml). The resulting suspension was filtered through Celite® and the filtrate washed with ether (10 ml×3), then neutralised by addition of 1 M aqueous hydrochloric acid (10 ml). The solution was extracted with ether (10 ml×3) and the combined organic extracts were dried (Na2SO4) then concentrated in vacuo to afford the title compound as a colourless oil (225 mg, 50%). 1H NMR (CDCl3, 300 MHz) 7.47 (1H, dd, J=8.4, 7.5 Hz), 7.06 (1H, dd, J=8.9, 2.2 Hz), 6.93 (1H, ddd, J=8.4, 2.1, 0.7 Hz), 3.54 (1H, br s).

reactant | 4-Bromo-3-fluoro-benzenesulfonyl chloride | 2.19 mmol, 324 μl | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | triphenylphosphine | 6.58 mmol, 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 1 M, 5 ml | Cl | ClH
solvent | dimethylformamide | 125 μl | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-Bromo-3-fluoro-benzenethiol | 225 mg, 50% | BrC1=C(C=C(C=C1)S)F | C6H4BrFS
